US09029560B2
Preparation of ethyl 2,3-difluoro-3-(4-(1-(4-(trifluoromethoxy)phenyl)-1H-1,2,4-triazol-3-yl)phenyl)propanoate (C45)
To the crude ethyl 2-fluoro-3-hydroxy-3-(4-(1-(4-(trifluoromethoxy)phenyl)-1H-1,2,4-triazol-3-yl)phenyl)propanoate (0.11 g, 0.26 mmol) in dichloromethane (1.7 mL) at 0° C. was added Deoxo-Fluor® (0.05 mL, 0.28 mmol) and stirred for 30 minutes. The reaction mixture was loaded onto a Celite® cartridge and purified by flash column chromatography using 0-60% ethyl acetate/hexanes as eluent to afford the title compound as a yellow oil (0.054 g, 47%): 1H NMR (400 MHz, CDCl3) δ 8.58 (d, J=1.9 Hz, 1H), 8.32-8.14 (m, 2H), 7.87-7.73 (m, 2H), 7.50 (d, J=8.1 Hz, 2H), 7.39 (d, J=8.6 Hz, 2H), 6.11-5.76 (m, 1H), 5.52-4.90 (m, 1H), 4.27 (dqd, J=23.6, 7.1, 2.1 Hz, 2H), 1.27 (dt, J=19.4, 7.1 Hz, 3H); 19F NMR (376 MHz, CDCl3) δ −58.04, −187.64, −187.68, −192.41, −192.44, −202.56, −202.60, −204.97, −205.00; ESIMS m/z 442 ([M+H]+).

reactant | ethyl 2-fluoro-3-hydroxy-3-(4-(1-(4-(trifluoromethoxy)phenyl)-1H-1,2,4-triazol-3-yl)phenyl)propanoate | 0.26 mmol, 0.11 g | FC(C(=O)OCC)C(C1=CC=C(C=C1)C1=NN(C=N1)C1=CC=C(C=C1)OC(F)(F)F)O | C20H17F4N3O4
reactant | Deoxo-Fluor | COCCN(CCOC)S(F)(F)F | C6H14F3NO2S
solvent | dichloromethane | 1.7 mL | ClCCl | CH2Cl2
product | ethyl 2,3-difluoro-3-(4-(1-(4-(trifluoromethoxy)phenyl)-1H-1,2,4-triazol-3-yl)phenyl)propanoate | 0.054 g, 47% | FC(C(=O)OCC)C(C1=CC=C(C=C1)C1=NN(C=N1)C1=CC=C(C=C1)OC(F)(F)F)F | C20H16F5N3O3
